US07148226B2
Preparation of Compound 4-Bromo-1-ethoxy-2-ethyl-benzene
Potassium carbonate (3.3 g, 23.6 mmol) followed by iodoethane (0.63 mL, 7.9 mmol) were added to a solution of 4-bromo-2-ethyl-phenol (1.6 g, 7.9 mmol) in DMF (10 mL). The mixture was stirred for 20 hours and then partitioned between 1N HCl and EtOAc. The organic layers were washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated. The crude yellow oil was purified by flash column chromatography (hexanes) to give the desired product (1.3 g, 72%).

reactant | Potassium carbonate | 23.6 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 7.9 mmol, 0.63 mL | ICC | C2H5I
reactant | 4-bromo-2-ethyl-phenol | 7.9 mmol, 1.6 g | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-1-ethoxy-2-ethyl-benzene | 1.3 g, 72% | BrC1=CC(=C(C=C1)OCC)CC | C10H13BrO
